US06294566B1
4-[(1H-Imidazol-4-yl)-methoxymethyl]quinoline.
To 2-(tert-Butyldimethylsilyl)-4-(methoxyquinolin-4-yl-methyl)-imidazole-1-sulfonic acid dimethylamide. (0.32 g, 0.672 mmol), 7 ml of 1.5N HCl was added and the solution refluxed for two hours. The reaction mixture was concentrated, partitioned between water(10 ml) and EtOAc (2×10 ml). The organic layer was dried over sodium sulfate, filtered, concentrated and column purified (CH2Cl2:MeOH:metanol-NH3 (1.0M); (4.5:0.25:0.25) to yield 0.160 g (100%) of the product as a syrup.

reactant | 2-(tert-Butyldimethylsilyl)-4-(methoxyquinolin-4-yl-methyl)-imidazole-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1C(=NC(=C1)C(C1=CC=NC2=CC=CC=C12)OC)[Si](C)(C)C(C)(C)C)C | C22H32N4O3SSi
reactant | HCl | 1.5N, 7 ml | Cl | ClH
product | 4-[(1H-Imidazol-4-yl)-methoxymethyl]quinoline | 0.160 g, 100% | N1C=NC(=C1)C(C1=CC=NC2=CC=CC=C12)OC | C14H13N3O
